US06451740B2
72 mg of 3-{2-cyano-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol (described later, produced in Intermediate Production Example 9) was dissolved in 1.0 ml of N,N-dimethylformamide, and to this was added 31 mg of anhydrous potassium carbonate, and 31 mg of methyl 2-bromopropionate was added with stirring at room temperature, then, the mixtures was stirred for 1 hours at 70° C. The reaction solution was cooled to room temperature, then, the reaction solution was poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 80 mg of methyl 2-[3-{2-cyano-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate [Compound 5-7 of the present invention].

reactant | 3-{2-cyano-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol | 72 mg | C(#N)C1=C(OC=2C=C(C=CC2)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C19H11F4N3O4
reactant | potassium carbonate | 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 31 mg | BrC(C(=O)OC)C | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | methyl 2-[3-{2-cyano-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate | 80 mg | C(#N)C1=C(OC=2C=C(OC(C(=O)OC)C)C=CC2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C23H17F4N3O6
